US05232898
6-Amino-3,4-dihydro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine is treated with phosgene analogously to the procedure described in Example 103 in order to produce the 3,4-dihydro-6-isocyanato-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine which is used as the starting material in Example 3. 1H-NMR (CDCl3, 400 MHz): 6.98-6.92 ppm (m, 2H), 6.79 ppm (q, 1H), 4.66 ppm (d, 2H), 4.63 ppm (s, 2H), 2.31 ppm (t, 1H).

reactant | 6-Amino-3,4-dihydro-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | NC=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C11H10N2O2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 3,4-dihydro-6-isocyanato-3-oxo-4-(2-propynyl)-2H-1,4-benzoxazine | N(=C=O)C=1C=CC2=C(N(C(CO2)=O)CC#C)C1 | C12H8N2O3
